data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_98538_0,[C:1](/[C:4](=[C:3](\[C:2]([O:7][H:9])=[O:8])[N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1([N:6]([H:12])[H:13])[C:3]([N:5]([H:10])[H:11])=[C:2]([O:7][H:9])[O:8]1)([H:14])([H:15])[H:16],48.48002250001656
MR_439528_0,[C@@:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[O:7])[H:10])([O:4][O:5][H:8])[O:6][H:9]>>[C@@:1]1([C:2]([H:11])([H:12])[H:13])([O:6][H:9])[C@@:3]([O:4][O:5][H:8])([H:10])[O:7]1,50.00798499997544
MR_135161_1,[C:1]([N:3](/[C:6](=[C:4](\[C:2]([H:15])([H:16])[H:17])[N:5]([H:9])[H:10])[H:11])[O:7][H:8])([H:12])([H:13])[H:14]>>[C:1]([N:3][C:6]([C@:4]([C:2]([H:15])([H:16])[H:17])([N:5]([H:9])[H:10])[O:7][H:8])[H:11])([H:12])([H:13])[H:14],25.16776999998441
MR_288095_1,[N:1](=[C:2](\[N:5]([H:10])[H:11])[N:7]1/[C:3](=[N:8]/[H:12])[C:4]1=[C:6]([H:13])[H:14])\[H:9]>>[N:1]1([H:9])[C:2]([N:5]([H:10])[H:11])=[N:7]/[C:3](=[N:8]/[H:12])[C:4]1=[C:6]([H:13])[H:14],36.96916250000825
MR_538545_0,[C:1](/[C:7](=[C:6]([C:2](\[N:3]([H:8])[H:9])=[C:5](\[N:4]([H:10])[H:11])[H:12])/[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:7]1([H:14])[C:5]([N:4]([H:10])[H:11])([H:12])[C:2]([N:3]([H:8])[H:9])=[C:6]1[H:13])([H:15])([H:16])[H:17],37.05199250001314
MR_271625_1,[C:1]([C:3]([N:4]([H:10])[H:11])=[O:8])([N:5]([H:12])[H:13])(/[C:6](=[C:7](\[C:2]([H:16])([H:17])[H:18])[H:15])[H:14])[H:9]>>[C:1](\[N:5]([H:12])[H:13])(=[C:6](\[C:7]([C:2]([H:16])([H:17])[H:18])([C:3]([N:4]([H:10])[H:11])=[O:8])[H:15])[H:14])[H:9],67.09794749998721
MR_327207_0,[C:1]([C:2]([N:4]([H:8])[H:9])=[O:6])([C:3]([N:5]([H:10])[H:11])=[O:7])([H:12])[H:13]>>[C:1](=[C:2]([N:4]([H:8])[H:9])[O:6][C:3]([N:5]([H:10])[H:11])=[O:7])([H:12])[H:13],67.22783999998029
MR_53097_0,[C:1]([C:2]([O:4][H:9])=[O:6])([C:3]([O:5][H:8])=[O:7])([H:10])[H:11]>>[C:1](=[C:2]([O:4][H:9])[O:6][C:3]([O:5][H:8])=[O:7])([H:10])[H:11],69.44291499998783
MR_151760_0,[C:1]([C:3]12[C:2]([O:6][H:8])([O:7][H:9])[C:5]1([H:14])[C:4]2([H:10])[H:15])([H:11])([H:12])[H:13]>>[C:1]([C:3](=[C:2]([O:6][H:8])[O:7][H:9])[C:5](=[C:4]([H:10])[H:15])[H:14])([H:11])([H:12])[H:13],37.87276250000971
MR_288842_0,[C:1]([C:3]([H:16])([H:17])[H:18])([C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[O:7][H:9])=[O:8])([N:6]([H:11])[H:12])[H:10]>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])[C:5]([O:7][H:9])=[O:8])([N:6]([H:11])[H:12])[H:10],64.03763000000922
MR_142930_0,[N:1]1([O:5][H:8])[C:4]2([H:11])[N:6]1[C:2]([N:3]([H:9])[H:10])=[N:7]2>>[n:1]1([O:5][H:8])[c:4]([H:11])[n:7][c:2]([N:3]([H:9])[H:10])[n:6]1,13.463640000000368
MR_494347_0,[C:1]1([C:4]([H:16])([H:17])[H:18])(/[N:8]=[C:6](/[N:5]([H:11])[H:12])[H:15])[C:2]([O:7][H:9])([H:10])[C:3]1([H:13])[H:14]>>[C:1]1([C:3]([C:2](=[O:7])[H:10])([H:13])[H:14])([C:4]([H:16])([H:17])[H:18])[C:6]([N:5]([H:11])[H:12])([H:15])[N:8]1[H:9],34.23514499999115
MR_81489_1,[C:1]([C:3]([C:5]([N:2]([H:8])[H:10])(/[C:6](=[N:4]/[H:9])[H:12])[H:11])=[C:7]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([C:3]([N:2](/[C:5](=[C:6](\[N:4]([H:9])[H:10])[H:12])[H:11])[H:8])=[C:7]([H:16])[H:17])([H:13])([H:14])[H:15],66.8055325000121
MR_66641_0,[C:1]([C@:2]([C:3]([C:7]([H:24])([H:25])[H:26])([H:13])[H:14])([O:9][H:10])[H:12])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[N:8]([C:6]([H:21])([H:22])[H:23])[H:11]>>[C:1]([C@@:2]([N:8]([C:6]([H:21])([H:22])[H:23])[H:11])([O:9][H:10])[H:12])([C:3]([C:7]([H:24])([H:25])[H:26])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:5]([H:18])([H:19])[H:20],60.27576749998332
MR_610335_0,[C:1](=[C:2]([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])/[N:6]=[N:7]\[C:4]([O:5][H:9])=[N:8]/[H:10]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([O:5][H:9])[C:2]([H:11])([H:12])/[C:4](=[N:8]\[H:10])[N:7]=[N:6]1,65.18720999999601
MR_125967_1,[C:1]([C:2]([O:3][H:7])=[O:6])([N:4]=[O:5])([H:8])[H:9]>>[C:1](=[C:2]([O:3][H:7])[O:6][N:4]=[O:5])([H:8])[H:9],33.12258749998222
MR_60916_0,[C:1]([C:2]([C:3]([O:4][H:7])([O:6][H:8])[H:10])([H:11])[H:12])(=[O:5])[H:9]>>[C:1]([C:2]([C:3]([O:4][H:7])=[O:6])([H:11])[H:12])([O:5][H:8])([H:9])[H:10],58.1661124999593
MR_379099_1,[C:1]1([H:12])([H:13])[N:3]([N:6]([H:10])[H:11])[C:5]([C:2]([H:14])([H:15])[H:16])([O:8][H:9])[C:4]1=[O:7]>>[C:1]([N:3]([N:6]([H:10])[H:11])[H:9])([C:4]([C:5]([C:2]([H:14])([H:15])[H:16])=[O:8])=[O:7])([H:12])[H:13],35.277422499999176
MR_162444_1,[C:1]([N:3]([C:2]([H:16])([H:17])[H:18])[H:8])([C:7](=[C:4]([N:5]([H:10])[H:11])[N:6]([H:9])[H:12])[H:15])([H:13])[H:14]>>[C:1](=[C:7]([C:4]([N:3]([C:2]([H:16])([H:17])[H:18])[H:8])([N:5]([H:10])[H:11])[N:6]([H:9])[H:12])[H:15])([H:13])[H:14],63.9868024999592
MR_313246_2,[C:1](/[C:3]([N:2]([C:6](=[C:7]([H:16])[H:17])[H:12])[H:8])=[C:5](\[N:4]([H:9])[H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C@:3]1([C:6](=[C:7]([H:16])[H:17])[H:12])[N:2]([H:8])[C@@:5]1([N:4]([H:9])[H:10])[H:11])([H:13])([H:14])[H:15],65.66975749995478
